Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Bactrim / trazadone / Penicillins / tetracycline
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
___: Angio for balloon assist coiling of R PComm

 
History of Present Illness:
___ is a ___ year old male with history of HTN, HLD and
prostate/bladder CA who was last seen well by his wife at
approximately 8am, went out for a walk and between ___ when
returning to his car developed sudden-onset WHOL.  He reported a
___ posterior headache radiating to the right side of his head
with one associated episode of vomiting.  He called a friend who
picked him up and brought him to the hospital.  he denies speech
deficits, weakness, numbness/paresthesias. He did experience 
some
lightheadedness but had no LOC. NCHCT at OS___ revealed right 
sided
subarachnoid hemorrhage and he was transferred to ___ for
further evaluation. 
 
Past Medical History:
ETOH abuse
anxiety
depression
Blader cancer s/p external ___ radiation
Blader outlet obstruction
ED
COPD
thrombocytopenia
HLD
HTN
hypothyroid
Insomnia
Lactose intolerance
Prostat CA
radiation cystitis
R sciatica
unbilical hernia s/p mesh repair
cystoscopy with TURP
 
Social History:
___
Family History:
No history of stroke, seizure or aneurysms
 
Physical Exam:
ON ADMISSION
============
PHYSICAL EXAM:

Date and Time of evaluation: ___ 14:26

___ and ___: 
[x]Grade I: Asymptomatic, mild headache, slight nuchal rigidity
[ ]Grade II: Moderate to severe headache, nuchal rigidity, no    

   neurological deficit other than cranial nerve palsy.
[ ]Grade III: Drowsiness/Confusion, mild focal neurological 
   deficit.
[ ]Grade IV: Stupor, moderate-severe hemiparesis.
[ ]Grade V: Coma, decerebrate posturing.

Fisher Grade:
[ ]1 No hemorrhage evident
[x]2 Subarachnoid hemorrhage less than 1mm thick
[ ]3 Subarachnoid hemorrhage more than 1mm thick
[ ]4 Subarachnoid hemorrhage of any thickness with IVH or  
     parenchymal extension

WFNS SAH Grading Scale:
[x]Grade I: GCS 15, no motor deficit
[ ]Grade II: GCS ___, no motor deficit
[ ]Grade III: GCS ___, with motor deficit
[ ]Grade IV: GCS ___, with or without motor deficit
[ ]Grade V: GCS ___, with or without motor deficit  

___ Coma Scale:
  [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

 15 Total
: 
T: 97.2  BP: 152/68         HR: 75    R:  12  O2Sats: 96% Ra

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: perrl ___      EOMs Full
Neck: Supple.
Lungs: No resp distress
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger

ON DISCHARGE
============

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right    3-2mm              Left  3-2mm

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No 

Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
Deltoid BicepTricepGrip
Right  5       5       5      5
Left  5       5       5      5

IPQuadHamATEHLGast
Right5        5       5      5        5       5 
Left5        5       5      5        5       5

[x]Sensation intact to light touch in all four extremities. 

Angio Groin Site: 
[x]Soft, no hematoma  [x]Palpable pulses

 
Pertinent Results:
Please refer to OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
#Subarachnoid Hemorrhage/R PCOMM Aneurysm
Mr. ___ was admitted to the neurosurgery service on ___ after 
transfer from OSH with subarachnoid hemorrhage.  CTA in the ED 
revealed right PCOMM aneurysm. He was taken emergently to angio 
for balloon assisted coiling. His operative course was 
uncomplicated; please see procedure note for full details.  
Postoperativley, he was monitored in the Neuro ICU.  He was 
started on nimodipine the day of admission, which was given Q2H 
due to hypotension.  NCHCT was performed on POD#1 which was 
stable. On ___, he was transferred out of the ICU to the 
step-down unit. On ___ and ___ the patient complained of 
diplopia and hallucinations and was transferred from ___ to 
Neuro ICU with concern for vasospasm. On ___, the patient 
remained neurologically intact on examination. He fluid status 
was negative and he was restarted on maintenance fluids at 60cc 
hour as IV bolus result in chest congestion. In the morning of 
___ patient experienced worsening headaches and had a new left 
drift on exam. CTA was obtained which demonstrated mild 
vasospasm but an overall improvement. On ___, the patient 
remained neurologically stable on examination. TCDs were ordered 
and were negative for vasospasm. Patient was medically cleared 
to discharge home on ___. 

#Bradycardia
The patient experienced bradycardia, likely due to nimodipine. 
Home atenolol and lisinopril being held.  

#Nausea/Headache
On ___, initiated treatment with dexamethasone 2mg q8h for 48 
hours. His headache was resolved on ___.

#Suicidal Ideation
The patient expressed suicidal ideation to the physical 
therapist on ___. Psychiatry was consulted and feel there 
is no risk to patient. They recommended continuing Sertraline at 
100mg daily and will follow along during this admission. Patient 
was medically ready for discharge on ___. Psych was called to 
discuss safety of patient returning home, and given that the 
patient does not meet criteria for ___ or inpatient psych 
treatment, patient was cleared by psych for discharge. 

AHA/ASA Core Measures for SAH/ ICH:
1. Dysphagia screening before any PO intake? [x]Yes []No
2. DVT prophylaxis administered? [x]Yes []No
3. Smoking cessation counseling given? [ ]Yes [x]No [Reason: 
(x)non-smoker  ()unable to participate]
4. Stroke Education given in written form? [x]Yes []No
5. Assessment for rehabilitation and/or rehab services 
considered? [x]Yes []No

Stroke Measures:
1.Was ___ performed within 6hrs of arrival? [x]Yes []No
2.Was a Procoagulant Reversal agent given? []Yes [x]No  
[Reason:] not anticoagulated
3.Was Nimodipine given? [x]Yes []No [Reason:]

 
Medications on Admission:
Advair 100-50 BID
Alfuosin 10mg daily
Atenolol 100mg daily
MVI
Lipitor 0mg daily
lisinopril 10mg daily
lorazepam 1mg daily PRN
Myrbetriq 25mg daily
levothyroxine 50mcg daily
trospium 0mg BID PRN
Vitamin D3
Zoloft 100mg daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*31 
Tablet Refills:*3 
3.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth QPM Disp #*31 Tablet 
Refills:*3 
4.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
5.  Docusate Sodium 100 mg PO BID  
6.  Gabapentin 300 mg PO QHS 
RX *gabapentin 300 mg 1 capsule(s) by mouth at bedtime Disp #*31 
Capsule Refills:*3 
7.  NiMODipine 60 mg PO Q4H SAH Duration: 21 Days 
RX *nimodipine 30 mg 2 capsule(s) by mouth every 4 hours. Disp 
#*84 Capsule Refills:*0 
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
9.  Senna 17.2 mg PO QHS  
10.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
11.  Levothyroxine Sodium 50 mcg PO DAILY  
12.  LORazepam 0.5-1 mg PO QHS:PRN Insomnia  
13.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right PCOMM aneurysm
Subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Aneurysmal Subarachnoid Hemorrhage 

Surgery/ Procedures:

- You had a cerebral angiogram to coil the aneurysm. You may 
experience some mild tenderness and bruising at the puncture 
site (groin).

Activity:

- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous - You make take leisurely walks and slowly 
increase your activity at your own pace. ___ try to do too 
much all at once.

- You make take a shower. 

- No driving while taking any narcotic or sedating medication. 

- If you experienced a seizure while admitted, you must refrain 
from driving. 

Medications:

- Resume your normal medications and begin new medications as 
directed.

- You may be instructed by your doctor to take one ___ a 
day. If so, do not take any other products that have aspirin in 
them. If you are unsure of what products contain Aspirin, as 
your pharmacist or call our office. 

- Please do NOT take any other blood thinning medication 
(Plavix, Coumadin) until cleared by the neurosurgeon. 

- You have been discharged on a medication called Nimodipine. 
This medication is used to help prevent cerebral vasospasm 
(narrowing of blood vessels in the brain). 

- You have been discharged on a medication to lower your 
cholesterol levels. We recommend that you continue this 
medication indefinitely. 

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

- Mild to moderate headaches that last several days to a few 
weeks.

- Difficulty with short term memory. 

- Fatigue is very normal

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the incision 
site or puncture site. 

- Fever greater than 101.5 degrees Fahrenheit

- Constipation

- Blood in your stool or urine

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

- Sudden numbness or weakness in the face, arm, or leg

- Sudden confusion or trouble speaking or understanding

- Sudden trouble walking, dizziness, or loss of balance or 
coordination

- Sudden severe headaches with no known reason

 
Followup Instructions:
___